US05084085
In a manner similar to Step D of Example 1, the reaction of 0.60 g (0.0015 mole) of 1-[4-chloro-2-fluoro-5-(4-hydroxyphenoxy)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one, 0.32 g (0.0014 mole) of N-methylsulfonyl-2-bromopropionamide, and 0.24 g (0.0017 mole) of potassium carbonate in 20 mL of acetone produced 0.3 g of N-methylsulfonyl-2-[4-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5 -dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]phenoxy]-propionamide as an oil, Compound 32 of Table 1.

reactant | 1-[4-chloro-2-fluoro-5-(4-hydroxyphenoxy)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.0015 mole, 0.60 g | ClC1=CC(=C(C=C1OC1=CC=C(C=C1)O)N1N=C(N(C1=O)C(F)F)C)F | C16H11ClF3N3O3
reactant | N-methylsulfonyl-2-bromopropionamide | 0.0014 mole, 0.32 g | CS(=O)(=O)NC(C(C)Br)=O | C4H8BrNO3S
reactant | potassium carbonate | 0.0017 mole, 0.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | N-methylsulfonyl-2-[4-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5 -dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]phenoxy]-propionamide | 0.3 g | CS(=O)(=O)NC(C(C)OC1=CC=C(C=C1)OC1=C(C=C(C(=C1)N1N=C(N(C1=O)C(F)F)C)F)Cl)=O | C20H18ClF3N4O6S
